US05861510
To a solution of (+)-N-(t-butyloxy)-1-(4-methoxybenzenesulfonyl)-2-piperazinecarboxamide (30 mg, in dichloroethane is added ethanol (1 drop). The solution is cooled to -10° C. and hydrogen chloride gase is bubbled through for 5 minutes. The reaction is then sealed and stirred for 24 hours at which time the volume is reduced to 1/3 by evaporation and the precipitated solids are filtered and dried (in vacuo) to give (+)-N-hydroxy-1-(4-methoxybenzenesulfonyl)-2-piperazinecarboxamide hydrochloride as a white solid. Melting point 167° C. (dec.). Mass spectrum (thermospray): m/Z 343 (m+1 100%). 1H NMR (CD3OD, 250 MHz, ppm): δ7.76 (d, J=8.9 Hz, 2 H), 7.07 (d, J=8.9 Hz, 2 H), 3.87 (bs, H2O ), 4.19 (d, J=3.3 Hz, 1 H), 3.87 (s, 3 H), 3.58 (bd, J=6.2 Hz, 1 H), 3.42 (bd, J=6.1 Hz, 1 H), 3.30 (bs, CD3OD), 3.16 (d, J=13.5 Hz, 1 H), 2.87 (bd, J=13.3 Hz, 1 H), 2.69 (dd, J=13.3, 3.0 Hz, 1 H), 2.51 (dt, J=12.5, 3.8 Hz, 1 H).

reactant | (+)-N-(t-butyloxy)-1-(4-methoxybenzenesulfonyl)-2-piperazinecarboxamide | C(C)(C)(C)ONC(=O)C1N(CCNC1)S(=O)(=O)C1=CC=C(C=C1)OC | C16H25N3O5S
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
catalyst | ethanol | 1 drop | C(C)O | C2H6O
product | (+)-N-hydroxy-1-(4-methoxybenzenesulfonyl)-2-piperazinecarboxamide hydrochloride | Cl.ONC(=O)C1N(CCNC1)S(=O)(=O)C1=CC=C(C=C1)OC | InChI=1S/C12H17N3O5S.ClH/c1-20-9-2-4-10(5-3-9)21(18,19)15-7-6-13-8-11(15)12(16)14-17;/h2-5,11,13,17H,6-8H2,1H3,(H,14,16);1H
